US07622589B2
88A) 1-(1-Methylenepropyl)-4-(trifluoromethyl)-benzene
To a stirred suspension of methyltriphenylphosphonium bromide (3.53 g, 9.89 mmol) in THF (30 ml) was added potassium tert-butoxide (1.11 g, 9.89 mmol) in THF (10 ml) dropwise at 0° C. and the mixture was stirred at ambient temperature for 2 hours. Then, to this mixture was added 4-(trifluoromethyl)propiophenone (Aldrich, 1.00 g, 4.95 mmol) in THF (10 ml) at 0° C. and stirred at ambient temperature for 2 hours. The reaction was quenched with small amount of water and evaporated to remove the solvent. The crude mixture was diluted with hexane. The formed precipitates were filtered and the organic layer was separated. After evaporation of solvent, residue was applied to a silica gel chromatography column and eluted with hexane to afford 1.12 g (crude 100%) of the title compound as a red oil.

reactant | potassium tert-butoxide | 9.89 mmol, 1.11 g | CC(C)([O-])C.[K+]
reactant | 4-(trifluoromethyl)propiophenone | 4.95 mmol, 1.00 g | CCC(=O)C1=CC=C(C=C1)C(F)(F)F | C10H9F3O
catalyst | methyltriphenylphosphonium bromide | 9.89 mmol, 3.53 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(1-Methylenepropyl)-4-(trifluoromethyl)-benzene | C=C(CC)C1=CC=C(C=C1)C(F)(F)F | C11H11F3
